US08008279B2
[2-(trifluoromethoxy)phenyl]hydrazine hydrochloride
2-(Trifluoromethoxy)aniline (2.00 mL, 15.0 mmol) was cooled and conc hydrochloric acid (10 mL) added. After recooling to 0° C. a solution of the sodium nitrite (1.25 g, 18.0 mmol) in water (10 mL) was added dropwise. The reaction was stirred at the same temp for 30 min when tin chloride (8.53 g 45.0 mmol) in hydrochloric acid (10 mL) was added dropwise again keeping temp ca 0° C. The reaction was stored in a fridge overnight and then recooled to 0° C. The resulting solid was filtered off, washed with saturated NaCl (10 mL) and then ether:hexane 1:2 before drying to give a solid (2.36 g, 69%)

reactant | 2-(Trifluoromethoxy)aniline | 15.0 mmol, 2.00 mL | FC(OC1=C(N)C=CC=C1)(F)F | C7H6F3NO
reactant | sodium nitrite | 18.0 mmol, 1.25 g | N(=O)[O-].[Na+]
reactant | tin chloride | 45.0 mmol, 8.53 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | water | 10 mL | O | H2O
solvent | hydrochloric acid | 10 mL | Cl | ClH
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | [2-(trifluoromethoxy)phenyl]hydrazine hydrochloride | 2.36 g, 69% | Cl.FC(OC1=C(C=CC=C1)NN)(F)F | InChI=1S/C7H7F3N2O.ClH/c8-7(9,10)13-6-4-2-1-3-5(6)12-11;/h1-4,12H,11H2;1H
